US08071651B2
a) N-[1-(4-Bromopyridin-2-yl)-4-methoxybutyl]acetamide
A solution of 32.0 g of 1-(4-bromopyridin-2-yl)-4-methoxybutylamine in 150 ml of glacial acetic acid is mixed with 37 ml of acetic anhydride. The reaction solution is stirred at 50° C. for 30 minutes and then diluted with ethyl acetate. It is basified with 2M sodium hydroxide solution, and the phases are separated. The aqueous phase is extracted with ethyl acetate (2×). The combined organic phases are evaporated. The title compound is obtained as a yellowish solid from the residue by flash chromatography (SiO2 60 F). Rf=0.38 (EtOAc-methanol 9:1); Rt=2.33 (Gradient I).

reactant | 1-(4-bromopyridin-2-yl)-4-methoxybutylamine | 32.0 g | BrC1=CC(=NC=C1)C(CCCOC)N | C10H15BrN2O
reactant | acetic anhydride | 37 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-(4-Bromopyridin-2-yl)-4-methoxybutyl]acetamide | BrC1=CC(=NC=C1)C(CCCOC)NC(C)=O | C12H17BrN2O2
